US05919950
The methyl 4-[pent-3-oxy]salicylate used was prepared as follows. A mixture of methyl 4-hydroxysalicylate (74 g, 0.44 mole), 3-bromopentane (80 g, 0.53 mole), potassium iodide (20 g) and potassium carbonate (100 g) in methyl ethyl ketone (MEK, 500 mL) was heated at reflux for 65 hours. The cooled reaction mixture was then filtered and concentrated under reduced pressure. The resultant oily residue was stirred with dilute hydrochloric acid, then extracted into dichloromethane. The dichloromethane solution was washed with brine, dried over anhydrous sodium sulfate and concentrated to a clear liquid (67.0 g, 64% yield). The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | methyl 4-hydroxysalicylate | 0.44 mole, 74 g | OC=1C=C(C(C(=O)OC)=CC1)O | C8H8O4
reactant | 3-bromopentane | 0.53 mole, 80 g | BrC(CC)CC | C5H11Br
reactant | potassium iodide | 20 g | [I-].[K+]
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 500 mL | C(C)C(=O)C | C4H8O
product | methyl 4-[pent-3-oxy]salicylate | CCC(CC)OC=1C=C(C(C(=O)OC)=CC1)O | C13H18O4
